US08580957B2
1,1-Dimethylethyl (2-{4-[(2S,4R)-1-acetyl-4-amino-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl]-1H-pyrazol-1-yl}ethyl)methylcarbamate (for a preparation see intermediate 55) (159 mg, 0.372 mmol), 2-bromopyridine (0.071 mL, 0.744 mmol), 2′-(dicyclohexylphosphino)-N,N-dimethylbiphenyl-2-amine (DavePhos) (58.5 mg, 0.149 mmol), tris(dibenzylideneacetone)dipalladium(0) (68.1 mg, 0.074 mmol) and sodium tert-butoxide (107 mg, 1.116 mmol) were dissolved in 1,4-dioxane (4 mL) and the resulting mixture was stirred at 120° C. under nitrogen for 16 h then cooled to room temperature and concentrated in vacuovacuo. The residue was partitioned between EtOAc and a saturated NaHCO3 aqueous solution and the layers were separated. The aqueous phase was extracted with EtOAc and the combined organic phases were washed with brine, dried over MgSO4 and concentrated in vacuovacuo. The residue was dissolved in 1:1 MeOH:DMSO (0.6 mL ×3) and purified by MDAP (modifier: formic acid). The desired fractions were combined and the solvent was removed under vacuo to give 1,1-dimethylethyl (2-{4-[(2S,4R)-1-acetyl-2-methyl-4-(2-pyridinylamino)-1,2,3,4-tetrahydro-6-quinolinyl]-1H-pyrazol-1-yl}ethyl)methylcarbamate formate (126 mg, 0.250 mmol, 67.1% yield).

reactant | 1,1-Dimethylethyl (2-{4-[(2S,4R)-1-acetyl-4-amino-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl]-1H-pyrazol-1-yl}ethyl)methylcarbamate | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1C=NN(C1)CCN(C(OC(C)(C)C)=O)C)N)C | C23H33N5O3
reactant | 2-bromopyridine | 0.744 mmol, 0.071 mL | BrC1=NC=CC=C1 | C5H4BrN
reactant | 2′-(dicyclohexylphosphino)-N,N-dimethylbiphenyl-2-amine | 0.149 mmol, 58.5 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C=1C(=CC=CC1)N(C)C)C1CCCCC1 | C26H36NP
reactant | sodium tert-butoxide | 1.116 mmol, 107 mg | CC(C)([O-])C.[Na+]
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.074 mmol, 68.1 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1,1-dimethylethyl (2-{4-[(2S,4R)-1-acetyl-2-methyl-4-(2-pyridinylamino)-1,2,3,4-tetrahydro-6-quinolinyl]-1H-pyrazol-1-yl}ethyl)methylcarbamate formate | 0.250 mmol, 126 mg, 67.1% yield | C(=O)O.C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1C=NN(C1)CCN(C(OC(C)(C)C)=O)C)NC1=NC=CC=C1)C | InChI=1S/C28H36N6O3.CH2O2/c1-19-15-24(31-26-9-7-8-12-29-26)23-16-21(10-11-25(23)34(19)20(2)35)22-17-30-33(18-22)14-13-32(6)27(36)37-28(3,4)5;2-1-3/h7-12,16-19,24H,13-15H2,1-6H3,(H,29,31);1H,(H,2,3)/t19-,24+;/m0./s1
